US06887889B2
To a stirred solution of 4-aminomethyl-4-(4-iodo-phenyl)-piperidine-1-carboxylic acid tert-butyl ester (0.10 g, 0.24 mmol) in CH2Cl2 (1.0 mL) at room temperature under Ar was added a solution of 3-chloro-4-fluorophenylsulfonyl chloride (0.06 g, 0.26 mmol, 1.1 eq.) followed by pyridine (0.25 mL). The mixture was stirred at room temperature for 16 h, diluted with EtOAc (5 mL), washed with saturated aqueous NaHCO3 (5 mL) and saturated brine (5 mL) and dried over Na2SO4. Filtration and rotary evaporation yielded the crude 4-[(3-chloro-4-fluoro-benzenesulfonylamino)-methyl]-4-(4-iodo-phenyl)-piperidine-1-carboxylic acid tert-butyl ester as a yellow oil (0.09 g, 0.14 mmol, ˜62%). 1HNMR (300 MHz, CDCl3): δ 8.66 (d, 1H), 7.81-7.73 (m, 3H), 7.34 (m, 1H), 7.15 (d, 1H), 7.08 (d, 1H), 3.79 (m, 2H), 3.13 (m, 3H), 2.19 (m, 3H), 1.77 (m, 2H), 1.56 (s, 9H). MS(ESI): 509 (M−Boc).

reactant | 4-aminomethyl-4-(4-iodo-phenyl)-piperidine-1-carboxylic acid tert-butyl ester | 0.24 mmol, 0.10 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(C1=CC=C(C=C1)I)CN | C17H25IN2O2
reactant | 3-chloro-4-fluorophenylsulfonyl chloride | 0.26 mmol, 0.06 g, 1.1 eq. | ClC=1C=C(C=CC1F)S(=O)(=O)Cl | C6H3Cl2FO2S
reactant | pyridine | 0.25 mL | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 1.0 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
product | 4-[(3-chloro-4-fluoro-benzenesulfonylamino)-methyl]-4-(4-iodo-phenyl)-piperidine-1-carboxylic acid tert-butyl ester | 0.14 mmol, 0.09 g, ~62% | C(C)(C)(C)OC(=O)N1CCC(CC1)(C1=CC=C(C=C1)I)CNS(=O)(=O)C1=CC(=C(C=C1)F)Cl | C23H27ClFIN2O4S
